*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/4.70e-03[uF]/50[V]
* Murata P/N :GRM155B11H472MA01
* Property : C = 4.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B11H472MA01 Port1 Port2
C01 Port1 N01 4.59e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.80e-10
R03 N02 N03 1.00e-01
C04 N03 N04 5.20e-07
R04 N03 N04 3.14e+03
C05 N04 N05 7.66e-07
R05 N04 N05 1.65e+02
C06 N05 N06 7.02e-07
R06 N05 N06 1.85e+01
C07 N06 N07 5.50e-07
R07 N06 N07 2.44e+00
C08 N07 N08 3.98e-07
R08 N07 N08 4.53e-01
C09 N08 N09 2.45e-07
R09 N08 N09 9.93e-02
C10 N09 N10 6.76e-08
R10 N09 N10 5.89e-02
L11 N10 N11 1.98e-11
R11 N10 N11 4.98e-01
L12 N11 N12 5.30e-11
R12 N11 N12 1.78e-01
C13 N12 N13 8.36e-09
L13 N12 N13 1.44e-11
R13 N12 N13 4.76e-02
C14 N13 Port2 3.24e-12
L14 N13 Port2 9.11e-11
R14 N13 Port2 1.40e+01
.ENDS GRM155B11H472MA01
